US06190641B1
The hydroxy-indole compound is readily prepared by literature method (P. L. Southwick, J. G. Cairns, L. A. Ernst, and A. S. Waggoner, One pot Fischer synthesis of (2,3,3-trimethyl-3-H-indol-5-yl)-acetic acid derivatives as intermediates for fluorescent biolabels. Org. Prep. Proced. Int. Briefs, 1988, 20(3), 279-284). Reaction of p-carboxymethylphenylhydrazine hydrochloride (30 mmol, 1 equiv.) and 1,1-bis(hydroxymethyl)propanone (45 mmole, 1.5 equiv.) in acetic acid (50 mL) at room temperature for 30 minutes and at reflux for 1 gives (3,3-dihydroxymethyl2-methyl-3-H-indol-5-yl)-acetic acid as a solid residue. The reaction of 3-bromopropyl-N,N-bis(carboxymethyl)amine, which was prepared as described in Example 5, with the intermediate indole and subsequent reaction of the indole intermediate with glutaconaldehyde dianil monohydrochloride (see Example 1) gives the desired product.

reactant | hydroxy-indole | OC=1NC2=CC=CC=C2C1 | C8H7NO
reactant | (2,3,3-trimethyl-3-H-indol-5-yl)-acetic acid | CC1=NC2=CC=C(C=C2C1(C)C)CC(=O)O | C13H15NO2
reactant | p-carboxymethylphenylhydrazine hydrochloride | 30 mmol, 1 equiv. | Cl.C(=O)(O)CC1=CC=C(C=C1)NN
reactant | 1,1-bis(hydroxymethyl)propanone | 45 mmole, 1.5 equiv. | OCC(C(C)=O)CO | C5H10O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (3,3-dihydroxymethyl2-methyl-3-H-indol-5-yl)-acetic acid | OCC1(C(=NC2=CC=C(C=C12)CC(=O)O)C)CO | C13H15NO4
